US05164514
1-[(4-cyclohexyl)phenylsulphonyl]-2-pyrrolidinone
The operation is carried out as in Example 12, using 1.97 g of 2-pyrrolidinone in 100 cm3 of tetrahydrofuran, 15.5 cm3 of a 1.5M solution of n-butyllithium in hexane, and 6 g of (4-cyclohexyl)benzene-sulphonyl chloride [J. Am. Chem. Soc. 62, 513 (1940)] in 24 cm3 of tetrahydrofuran. 3 g of expected product is obtained.

reactant | 2-pyrrolidinone | 1.97 g | N1C(CCC1)=O | C4H7NO
reactant | n-butyllithium | C(CCC)[Li]
reactant | (4-cyclohexyl)benzene-sulphonyl chloride | 6 g | C1CCC(CC1)C1=C(C=CC=C1)S(=O)(=O)Cl | C12H15ClO2S
solvent | tetrahydrofuran | 100 cm3 | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 24 cm3 | O1CCCC1 | C4H8O
product | 1-[(4-cyclohexyl)phenylsulphonyl]-2-pyrrolidinone | 3 g | C1CCC(CC1)C1=C(C=CC=C1)S(=O)(=O)N1C(CCC1)=O | C16H21NO3S
